US05618839
4-[(1,1-Dimethyl-3-phenyl-1H-indene-5-carbonyl)amino]benzoic acid
Methyl 4-[(1,1-dimethyl-3-phenyl-1H-indene-5-carbonyl)amino]benzoate (359 mg, 0.90 mmol) was stirred with 4.5 mL of 2N NaOH in 5 mL of methanol and 5 mL of tetrahydrofuran for 10 hours. The solution was acidified with 1N HCl and concentrated under reduced pressure. After addition of 15 mL of water, the mixture was extracted with ethyl acetate (15 mL×3). The combined extracts were washed with water (10 mL), dried over magnesium sulfate, and evaporated. The residue was triturated in etherhexane to give 326 mg (94% yield) of the title compound as solids; 1H-NMR (DMSO-d6) δ1.39 (s, 6H), 6.68 (s, 1H), 7.39-7.53 (m, 3H), 7.64-7.68 (m, 3H), 7.85-7.97 (m, 6H), 10.54 (s, 1H), 12.75 (bs, 1H); MS m/e 384 (MH+).

reactant | Methyl 4-[(1,1-dimethyl-3-phenyl-1H-indene-5-carbonyl)amino]benzoate | 0.90 mmol, 359 mg | CC1(C=C(C2=CC(=CC=C12)C(=O)NC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)C | C26H23NO3
reactant | NaOH | 2N, 4.5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[(1,1-Dimethyl-3-phenyl-1H-indene-5-carbonyl)amino]benzoic acid | 326 mg, 94% yield | CC1(C=C(C2=CC(=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1)C | C25H21NO3
